US04356292
3,3'-Dicarbomethoxystilbene (X)
To a mixture of 49.2 g (0.3 mole) of m-carbomethoxybenzaldehyde, 221 g (0.45 mole) of m-carbomethoxybenzyl triphenyl phosphonium bromide and 1.0 g of tetrabutyl ammonium iodide in 500 ml of dichloromethane, 500 ml of 50% solution of potassium carbonate was added. The mixture was stirred at room temperature for 3 hr. The alkaline layer was separated, extracted with dichloromethane and the combined organic solvent was washed with plenty of water and dried. Evaporation of the solvent and recrystallization of the residue from ether gave 73.2 g of white needles of predominantly transisomer. Yield 82%. m.p. softens at 64° C. and melts at 105°-107° C. The infrared spectrum showed absorption at 1720 cm-1 (COOCH3), 1675 cm-1 (trans c=c), 965 cm-1 (trans c=c) and 670 cm-1 (weak cis c=c). NMR (CDCl3) showed 3.9-4.0 (d. COOCH3, 6) 67-72 (d, CH=CH, 2) and 7.3-8.4 (m, aromatic, 8). Anal. calcd. for C18H16O4 : C, 72.97%, H, 5.40. Found: C, 73.02%, H, 5.41%.

reactant | m-carbomethoxybenzaldehyde | 0.3 mole, 49.2 g | C(=O)(OC)C=1C=C(C=O)C=CC1 | C9H8O3
reactant | m-carbomethoxybenzyl triphenyl phosphonium bromide | 0.45 mole, 221 g | [Br-].C(=O)(OC)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutyl ammonium iodide | 1.0 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3,3'-Dicarbomethoxystilbene | 73.2 g, Yield 82% | C(=O)(OC)C=1C=C(C=CC1)C=CC1=CC(=CC=C1)C(=O)OC | C18H16O4
